US05409943
(b) N-(3-(Benzyloxy)-2-pyridyl)-2-methylphenylacetamidine hydrochloride
A mixture of 2-amino-3-benzyloxypyridine (4.0 g, 20 mmol) and ethyl 2-methylphenylacetimidate hydrochloride (4.69 g, 22 mmol) in ethanol (80 ml) was heated under reflux for 1 hour. Evaporation of the solvent gave an oil which was purified by flash chromatography (chloroform/methanol 10:1). The product was obtained as a white crystalline solid (1.2 g), m.p. 119°-120° C.

reactant | 2-amino-3-benzyloxypyridine | 20 mmol, 4.0 g | NC1=NC=CC=C1OCC1=CC=CC=C1 | C12H12N2O
reactant | ethyl 2-methylphenylacetimidate hydrochloride | 22 mmol, 4.69 g | Cl.CC1=C(C=CC=C1)CC(OCC)=N
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | N-(3-(Benzyloxy)-2-pyridyl)-2-methylphenylacetamidine hydrochloride | 1.2 g | Cl.C(C1=CC=CC=C1)OC=1C(=NC=CC1)NC(CC1=C(C=CC=C1)C)=N | InChI=1S/C21H21N3O.ClH/c1-16-8-5-6-11-18(16)14-20(22)24-21-19(12-7-13-23-21)25-15-17-9-3-2-4-10-17;/h2-13H,14-15H2,1H3,(H2,22,23,24);1H
